US06586617B1
Methoxylamine hydrochloride (0.95 g (11.4 mmol)) was suspended in pyridine (4.0 ml). To this, under cooling with ice and with stirring, 2-chlorobenzenesulfonyl chloride (2.11 g (10.0 mmol)) was added and the mixture was stirred under cooling with ice for one hour and at room temperature for one hour. Water (50.0 ml) was added to the reaction mixture and the resulting mixture was extracted with ethyl acetate. The extract was washed with water, dilute hydrochloric acid and a saturated aqueous solution of sodium chloride, successively, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 1.41 g (64%) of 2-chloro-N-methoxybenzenesulfonamide as pale yellow crystals.

reactant | Methoxylamine hydrochloride | 11.4 mmol, 0.95 g | Cl.O(C)N
reactant | 2-chlorobenzenesulfonyl chloride | 10.0 mmol, 2.11 g | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | Water | 50.0 ml | O | H2O
solvent | pyridine | 4.0 ml | N1=CC=CC=C1 | C5H5N
product | 2-chloro-N-methoxybenzenesulfonamide | 1.41 g, 64% | ClC1=C(C=CC=C1)S(=O)(=O)NOC | C7H8ClNO3S
